US09062048B2
Step B: 2-(2-cyano-6-(trifluoromethyl)quinolin-4-ylamino)acetic acid
Into a 25 mL vial, was placed a solution of tert-butyl 2-(2-cyano-6-(trifluoromethyl)quinolin-4-ylamino)acetate (as prepared in the previous step, 80 mg, 0.23 mmol, 1.00 equiv) in dichloromethane (10 mL) and CF3COOH (2 mL). The reaction mixture was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The title compound was obtained as a white solid

reactant | tert-butyl 2-(2-cyano-6-(trifluoromethyl)quinolin-4-ylamino)acetate | C(#N)C1=NC2=CC=C(C=C2C(=C1)NCC(=O)OC(C)(C)C)C(F)(F)F | C17H16F3N3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | CF3COOH | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(2-cyano-6-(trifluoromethyl)quinolin-4-ylamino)acetic acid | C(#N)C1=NC2=CC=C(C=C2C(=C1)NCC(=O)O)C(F)(F)F | C13H8F3N3O2
